* gnetlist -g spice-sdb -o test.net test.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from /home/ksarkies/Electronics-Development/spice-models/Other/TRANSIS.LIB vvvvvvvv
* SIMetrix Shareware model library for use with example circuits

* Copyright (C) 1995 Newbury Technology Ltd. All rights reserved.
* 
* These models are believed to be accurate but Newbury Technology Ltd.
* offers no guarantee as to their fitness for any purpose nor do they
* accept any responsibility for damage caused directly or indirectly
* by their use.
*
*
* 11.8.95 jrw

*From Philips SC04 "Small signal transistors 1991"
* Base spreading parameters (RB,IRB,RBM) estimated. TR derived using BCY58 data
.model BC546B npn ( IS=7.59E-15 VAF=73.4 BF=480 IKF=0.0962 NE=1.2665
+    ISE=3.278E-15 IKR=0.03 ISC=2.00E-13 NC=1.2 NR=1 BR=5 RC=0.25 CJC=6.33E-12
+    FC=0.5 MJC=0.33 VJC=0.65 CJE=1.25E-11 MJE=0.55 VJE=0.65 TF=4.26E-10
+    ITF=0.6 VTF=3 XTF=20 RB=100 IRB=0.0001 RBM=10 RE=0.5 TR=1.50E-07)

*From Philips SC04 "Small signal transistors 1991"
* Base spreading parameters (RB,IRB,RBM) estimated. TR from BCY70 data
.model BC556B pnp ( IS=3.50E-15 VAF=80.5 BF=330 IKF=0.1018 NE=1.3140
+    ISE=3.816E-16 IKR=0.03 ISC=5.00E-13 NC=1.6 NR=1 BR=5 RC=0.35 CJC=8.80E-12
+    FC=0.5 MJC=0.28 VJC=1 CJE=1.00E-11 MJE=0.38 VJE=0.4 TF=7.00E-10
+    ITF=0.6 VTF=3 XTF=11.5 RB=100 IRB=0.0001 RBM=10 RE=0.75 TR=2.00E-07)

.alias BC547 BC546B npn

*From Philips SC04 "Small signal transistors 1991"
* Hfe vs ic from NS Discrete 1978 @ vce = 10V. PS and MOT data @ vce=1v only. TR estimated - no data available
.model BC337 npn ( IS=8.52E-15 VAF=120.7 BF=280 IKF=1.1412 NE=1.3647
+    ISE=3.562E-14 IKR=0.1 ISC=1.00E-12 NC=1.4 NR=1 BR=10 RC=0.05 CJC=1.20E-11
+    FC=0.5 MJC=0.28 VJC=0.4 CJE=3.10E-11 MJE=0.38 VJE=0.9 TF=4.10E-10
+    ITF=1.5 VTF=3 XTF=25 RE=0.2 TR=8.00E-10)

*From Philips SC04 "Small signal transistors 1991"
* Hfe vs ic from NS Discrete 1978 @ vce = 10V. PS and MOT data @ vce=1v only. TR  estimated - no data
.model BC327 pnp ( IS=2.48E-13 VAF=99.6 BF=170 IKF=0.9648 NE=1.7746
+    ISE=3.464E-12 IKR=0.1 ISC=1.00E-12 NC=1.4 NR=1 BR=10 RC=0.05 CJC=2.00E-11
+    FC=0.5 MJC=0.37 VJC=0.6 CJE=4.70E-11 MJE=0.44 VJE=0.6 TF=9.70E-10
+    ITF=1.9 VTF=3 XTF=25 RE=0.2 TR=2.00E-07)

.subckt IRF130 D G S
.model mosfet nmos ( LEVEL=7 VTO=2.671 RS=0.05603 KP=2.758 RD=0.0345 TC1RD=0.0254 RG=14.3
+ CGDMAX=1.14E-09 CGDMIN=4.00E-11 XG2CGD=0.5 XG1CGD=0.1 CGSO=6.00E-10 CBD=2.00E-10)
.model diode D( IS=1.55e-13 RS=0.0391 TT=7.170e-07)
M1 D G S S mosfet
D1 S D diode
.ends

.alias IRF530 IRF130 subckt

.model mur105 D(IS=9p RS=23m IKF=11m CJO=40p M=0.37 VJ=0.75 ISR=820p 
+ BV=50 IBV=100u tt=62n)

*^^^^^^^^  End of included SPICE model from /home/ksarkies/Electronics-Development/spice-models/Other/TRANSIS.LIB ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
V1 1 0 12V
Q1 3 2 0 BC337 
R2 0 2 22K  
R1 2 1 47K  
RL 3 1 1K  
.end
